US08497278B2
4-chloro-N-((2-(4-chlorophenyl)imidazo[1,2-a]pyridin-3-yl)methyl)-6-methylpyrimidin-2-amine (159)
The title compound was prepared according to Method A and the experimentals described for compound 139 from 3-(chloromethyl)-2-(4-chlorophenyl)imidazo[1,2-a]pyridine hydrochloride and 4-chloro-6-methylpyrimidin-2-amine. M/e+, 384.1, 386 for C19H15C12N5. 1H-NMR (400 MHz, CDCl3, δ) 8.25 (m, 1H), 7.74 (d, J=6.598 Hz, 2H), 7.63 (m, 1H), 7.42 (d, J=6.599 Hz, 2H), 7.24 (m, 1H), 6.84 (m, 1H), 6.55 (s, 1H), 5.41 (s, NH), 5.05 (d, J=5.13 Hz, 2H, D, CH2), 2.318 (s, 3H, D, CH3) ppm.

reactant | 3-(chloromethyl)-2-(4-chlorophenyl)imidazo[1,2-a]pyridine hydrochloride | Cl.ClCC1=C(N=C2N1C=CC=C2)C2=CC=C(C=C2)Cl
reactant | 4-chloro-6-methylpyrimidin-2-amine | ClC1=NC(=NC(=C1)C)N | C5H6ClN3
product | 4-chloro-N-((2-(4-chlorophenyl)imidazo[1,2-a]pyridin-3-yl)methyl)-6-methylpyrimidin-2-amine | ClC1=NC(=NC(=C1)C)NCC1=C(N=C2N1C=CC=C2)C2=CC=C(C=C2)Cl | C19H15Cl2N5
